US08334237B2
4-Amino-2,5-dimethylbenzaldehyde
6.06 g (50.0 mmol) of 2,5-dimethylaniline are initially charged in 1000 ml of DMSO, 13.55 g (100.0 mmol) of copper(II) chloride are added and concentrated hydrochloric acid is then added slowly. The reaction mixture is heated at 90° C. for 3 h and then added to ice-water. After addition of aqueous sodium hydroxide solution, the mixture is filtered and extracted repeatedly with ethyl acetate, and the combined organic phases are dried over Na2SO4 and freed from solvent under reduced pressure. The crude product is purified by column chromatography. (2.27 g, purity 75.0%, yield 22.8%, log P (pH 2.3)=1.34).

reactant | 2,5-dimethylaniline | 50.0 mmol, 6.06 g | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | DMSO | 1000 ml | CS(=O)C | C2H6OS
catalyst | copper(II) chloride | 100.0 mmol, 13.55 g | [Cu](Cl)Cl
product | 4-Amino-2,5-dimethylbenzaldehyde | yield 22.8% | NC1=CC(=C(C=O)C=C1C)C | C9H11NO
